US07115611B2
C] 2-[3-(2-Amino-ethyl)-phenoxy-2-methyl-propionic acid ethyl ester
7.82 g (28.0 mmol) of 2-methyl-2-[3-((E)-2-nitro-vinyl)-phenoxy]-propionic acid ethyl ester was dissolved in 150 ml ethanol; 6.2 ml (39.7 mmol) hydrochloric acid in ethanol and 1.6 g of Pd-charcoal (10%) were added and the reaction mixture was then hydrogenated under 1 atm of H2-pressure during 5 hours. It was subsequently filtered (Celite), the filter cake was washed twice with ethanol and filtrate was evaporated. The residue was then partitioned between crashed ice/Na2CO3-solution/MeCl2 and extracted twice with MeCl2; the organic phases were washed with water, dried (MgSO4) and evaporated. The crude product was purified by flash chromatography (SiO2, MeCl2/MeOH) to give 4.36 g of the title compound as yellow oil.

reactant | 2-methyl-2-[3-((E)-2-nitro-vinyl)-phenoxy]-propionic acid ethyl ester | 28.0 mmol, 7.82 g | C(C)OC(C(C)(OC1=CC(=CC=C1)\C=C\[N+](=O)[O-])C)=O | C14H17NO5
reactant | hydrochloric acid | 39.7 mmol, 6.2 ml | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | Pd charcoal | 1.6 g | [Pd].C
product | 3-(2-Amino-ethyl)-phenoxy-2-methyl-propionic acid ethyl ester | 4.36 g | C(C)OC(C(C)(C)OC1=CC(=CC=C1)CCN)=O | C14H21NO3
